US09353121B2
A mixture of 4-fluorobenzaldehyde (300 μL, 2.87 mmol, 1.0 equ.), malononitrile (190 mg, 2.87 mmol, 1.0 equ.) and triethylamine (400 μL, 2.87 mmol, 1.0 equ.) in ethanol (10 mL) was stirred for 1 min, followed by the addition of 3-(4-methoxyphenyl)-1-methyl-1H-pyrazol-5(4H)-one (586 mg, 2.87 mmol, 1 equ.). The reaction mixture was concentrated after 19 h and the precipitate formed was washed with ethanol and hexanes, re-crystallized from ethanol, and washed with hexanes and ethanol to give 6-amino-4-(4-fluorophenyl)-3-(4-methoxyphenyl)-1-methyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile (350 mg, 0.930 mmol, 32%) as a white solid. 1H-NMR (400 MHz) DMSO: 7.43-7.40 (d, 2H), 7.20-7.16 (m, 2H), 7.10 (s, 2H), 7.06-7.02 (t, 2H), 6.78-6.76 (d, 2H), 4.99 (s, 1H), 3.75 (s, 3H), 3.69 (s, 3H), 13C-NMR (100 MHz) DMSO: 162.5, 159.1, 145.8, 144.6, 141.0, 141.0, 129.8, 129.7, 127.8, 125.7, 120.5, 115.6, 115.4, 113.9, 94.9, 59.7, 55.4, 3 7.4, 34.4; LC/MS-MS: 377.1→311.1 m/z; GS1 and GS2 at 30, DP=66, CE=33, CXP=20, tR=3.98 min.

reactant | 4-fluorobenzaldehyde | 2.87 mmol, 300 μL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | malononitrile | 2.87 mmol, 190 mg | C(CC#N)#N | C3H2N2
reactant | triethylamine | 2.87 mmol, 400 μL | C(C)N(CC)CC | C6H15N
reactant | 3-(4-methoxyphenyl)-1-methyl-1H-pyrazol-5(4H)-one | 2.87 mmol, 586 mg | COC1=CC=C(C=C1)C1=NN(C(C1)=O)C | C11H12N2O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-amino-4-(4-fluorophenyl)-3-(4-methoxyphenyl)-1-methyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile | 0.930 mmol, 350 mg, 32% | NC1=C(C(C2=C(N(N=C2C2=CC=C(C=C2)OC)C)O1)C1=CC=C(C=C1)F)C#N | C21H17FN4O2
